US04137236
27.2 g (0.11 mole) of ethyl 1,8-dithia-3-azaspiro[4.5]dec-2-ene-4-carboxylate are dissolved in 865 ml of 6N hydrochloric acid and boiled under reflux for 5 hours. The reaction mixture is then concentrated in vacuo in a rotary evaporator. The residue is taken up several times in dry benzene to eliminate traces of water and is then triturated in diethyl ether and filtered. There are obtained 27 g (approx. 100% of theory) of alpha-amino-4-mercapto-2,3,5,6-tetrahydro-4H-thiopyran-4-acetic acid hydrochloride. The product gives a straight spot by thin layer chromatography on silica (eluent: butanol, acetic acid, water: 4:1:1; Rf=0.45); M.P. 193 -197° C.

reactant | ethyl 1,8-dithia-3-azaspiro[4.5]dec-2-ene-4-carboxylate | 0.11 mole, 27.2 g | S1C=NC(C12CCSCC2)C(=O)OCC | C10H15NO2S2
reactant | hydrochloric acid | 6N, 865 ml | Cl | ClH
product | alpha-amino-4-mercapto-2,3,5,6-tetrahydro-4H-thiopyran-4-acetic acid hydrochloride | 27 g, approx. 100% | Cl.NC(C(=O)O)C1(CCSCC1)S | InChI=1S/C7H13NO2S2.ClH/c8-5(6(9)10)7(11)1-3-12-4-2-7;/h5,11H,1-4,8H2,(H,9,10);1H
